************************************************************************
.subckt EPC2307 gatein drainin sourcein
.param  si={aWg} so={aWg} sr={aWg}
.param  aWg={Wg*1E-3} Wg=870000 A1={3.244e-02*aWg} k2=2.290e+00 k3=9.000e-02 rpara=6.807e-03
+   rpara_s_factor=3.168e-01 aITc=5.543e-03 arTc=-3.493e-03 k2Tc=6.809e-04
+   x0_0=4.384e+00 x0_0_TC=1.414e-03 x0_1=-1.000e-01 x0_1_TC=1.740e-14
+   dgs1=4.3e-07 dgs2=2.6e-13 dgs3=0.8 dgs4=0.23
+   ags1={1.381e-12*si} ags2={9.963e-13*si} ags3=1.827e+00 ags4=1.724e-01
+   ags5={0.000e+00*si} ags6=7.480e+01 ags7=1.055e+01
+   agd1={1.940e-15*sr} agd2={1.180e-13*sr} agd3=-5.000e+00 agd4=4.314e+00
+   agd5={1.000e-14*sr} agd6=-4.000e+01 agd7=1.529e+01 agd8={0.000e+00*sr}
+   agd9=-3.326e+01 agd10=8.900e-01
+   asd1={2.750e-13*so} asd2={5.725e-13*so} asd3=-1.435e+01 asd4=1.430e+00
+   asd5={5.276e-13*so} asd6=-2.514e+01 asd7=4.207e+01 asd8={1.275e-13*so}
+   asd9=-5.500e+01 asd10=4.780e+00
+   rg_value=0.4

rd drainin drain {((1-rpara_s_factor)*rpara*(1-arTc*(Temp-25)))}
rs sourcein source {(rpara_s_factor*rpara*(1-arTc*(Temp-25)))}
rg gatein gate {(rg_value)}

Rcsdconv drain source {100000Meg/aWg}
Rcgsconv gate source {100000Meg/aWg}
Rcgdconv gate drain {100000Meg/aWg}

bswitch drain source I=if(v(drain,source)>0,
+	(A1*(1-aITc*(Temp-25))*log(1.0+exp((v(gate,source)-(k2*(1-k2Tc*(Temp-25))))/k3))* 
+	v(drain,source)/(1 + (x0_0*(1-x0_0_TC*(Temp-25))+x0_1*(1-x0_1_TC*(Temp-25))*v(gate,source))*v(drain,source))),
+	(-A1*(1-aITc*(Temp-25))*log(1.0+exp((v(gate,drain)-(k2*(1-k2Tc*(Temp-25))))/k3))* 
+	v(source,drain)/(1 + (x0_0*(1-x0_0_TC*(Temp-25))+x0_1*(1-x0_1_TC*(Temp-25))*v(gate,drain))*v(source,drain))))

bgsdiode gate source I=if( v(gate,source)>10,
+	(0.125*aWg/1077*(dgs1*(exp((10.0)/dgs3)-1)+dgs2*(exp((10.0)/dgs4)-1))),
+	(0.125*aWg/1077*(dgs1*(exp((v(gate,source))/dgs3)-1)+dgs2*(exp((v(gate,source))/dgs4)-1))))

bgddiode gate drain I=if( v(gate,drain)>10,
+	(0.125*aWg/1077*(dgs1*(exp((10.0)/dgs3)-1)+dgs2*(exp((10.0)/dgs4)-1))),
+	(0.125*aWg/1077*(dgs1*(exp((v(gate,drain))/dgs3)-1)+dgs2*(exp((v(gate,drain))/dgs4)-1))))


C_GS       	gate source  {ags1}  TC=0,0
C_CGS1     	gate source Q=(0.5*ags2*ags4*log(1+exp((v(gate,source)-ags3)/ags4))+
+	ags5*ags7*log(1+exp((v(source,drain)-ags6)/ags7)))

C_GD      	gate drain  {agd1}  TC=0,0 
C_CGD1    	gate drain Q=(0.5*ags2*ags4*log(1+exp((v(gate,drain)-ags3)/ags4))+
+	        agd2*agd4*log(1+exp((v(gate,drain)-agd3)/agd4))+
+           agd5*agd7*log(1+exp((v(gate,drain)-agd6)/agd7))+ 
+           agd8*agd10*log(1+exp((v(gate,drain)-agd9)/agd10)))

C_SD       	source drain  {asd1}  TC=0,0
C_CSD1	source drain Q=(asd2*asd4*log(1+exp((v(source,drain)-asd3)/asd4))+
+	asd5*asd7*log(1+exp((v(source,drain)-asd6)/asd7))+ 
+	asd8*asd10*log(1+exp((v(source,drain)-asd9)/asd10)))           

.ends
************************************************************************