.title KiCad schematic
.include "TL072-dual.lib"
.include "VDMOS_models.lib"
Rload1 out GND 8
C7 Net-_C7-Pad1_ GND 300m
R10 Net-_C6-Pad1_ Tcase1 0.2
R11 Net-_R11-Pad1_ Net-_C6-Pad1_ 3
Vamb1 Net-_R11-Pad1_ GND {envtemp}
R12 GND Tj2 1G
R9 GND Tj1 1G
R13 Net-_C7-Pad1_ Tcase2 0.2
C6 Net-_C6-Pad1_ GND 300m
R14 Net-_R11-Pad1_ Net-_C7-Pad1_ 3
R4 Net-_R4-Pad1_ GND 1k
XU1 Net-_R16-Pad2_ Net-_R4-Pad1_ Net-_C2-Pad1_ GND Net-_C3-Pad1_ Net-_R3-Pad2_ Net-_R17-Pad2_ VCC TL072c
R5 Net-_C4-Pad1_ Net-_R4-Pad1_ 19.5k
R7 Net-_M1-Pad3_ Net-_C4-Pad1_ 0.1
R17 Net-_M2-Pad2_ Net-_R17-Pad2_ 100
C3 Net-_C3-Pad1_ GND 1u
R2 Net-_C3-Pad1_ GND 10k
R6 Net-_M2-Pad3_ Net-_R3-Pad2_ 100k
C1 VCC GND 1u
R16 Net-_M1-Pad2_ Net-_R16-Pad2_ 100
R3 Net-_C2-Pad1_ Net-_R3-Pad2_ 100k
C2 Net-_C2-Pad1_ in 0.33u
R1 VCC Net-_C3-Pad1_ 390k
Vin1 in GND dc 0 ac 1 sin(0 0.5 100 20m)
C4 Net-_C4-Pad1_ out 10m
R15 out GND 1k
M2 Net-_C4-Pad1_ Net-_M2-Pad2_ Net-_M2-Pad3_ Tj2 Tcase2 IRFP240 thermal
C5 out Net-_C4-Pad1_ 1u
M1 VCC Net-_M1-Pad2_ Net-_M1-Pad3_ Tj1 Tcase1 IRFP240 thermal
V1 VCC GND 36
R8 Net-_M2-Pad3_ GND 0.8
.ic v(Tj1)={envtemp} v(Tj2)={envtemp}
.temp {envtemp}
.param envtemp=25
.tran 200u 10
.option RELTOL=.01 ABSTOL=1N VNTOL=10u
.control
set controlswait
if $?sharedmode
rusage
else
run
rusage
settype temperature  tj1 tj2 tcase1 tcase2
plot tj1 tj2 tcase1 tcase2
plot in out xlimit 5.2 5.3
end
.endc
.end
