* PWM model analog in and out
* Input: 0 - 1 V
* Output: Vlo, Vhi
* Frequency: freq

.subckt pwm out+ out- in+ in- params: freq = 100k vlo=0.7 vhi=3.5
* the pwm (analog in, digital out)
a5 %vd (in+ in-) dout pwm_osc
.model pwm_osc d_pwm(cntl_array = [0 0.01 0.99 1]
+ dc_array = [0.01 0.01 0.99 0.99]
+ frequency = {freq} init_phase = 90.0
+ rise_delay = 2e-9 fall_delay=2e-9)
* the D to A converter
abridge1 [dout] %vd[out+ out-] dac1
.model dac1 dac_bridge(out_low = {vlo} out_high = {vhi} out_undef = {oundef}
+ input_load = 5.0e-12 t_rise = 2e-9
+ t_fall = 2e-9)
.param oundef={(vhi-vlo)/2}
.ends
