.title KiCad schematic
.include "TL072-dual.lib"
XU1 /highpass /highpass Net-_C12-Pad1_ VSS Net-_C2-Pad1_ /bandpass /bandpass VDD TL072c
C11 Net-_C11-Pad1_ Net-_C11-Pad2_ 220n
V1 Net-_C11-Pad2_ GND DC 0 AC 1
R11 /highpass Net-_C11-Pad1_ 27k
R12 GND Net-_C12-Pad1_ 27k
C12 Net-_C12-Pad1_ Net-_C11-Pad1_ 220n
C1 /bandpass Net-_C1-Pad2_ 47n
V3 GND VSS DC 10
R2 Net-_C2-Pad1_ Net-_C1-Pad2_ 1k
R1 Net-_C1-Pad2_ /highpass 1k
C2 Net-_C2-Pad1_ GND 47n
V2 VDD GND DC 10
.ac dec 10 1 100k
.control
pre_set norefvalue
pre_set noinit
set controlswait
if $?sharedmode
version -s
else
run
set xbrushwidth=3
plot vdb("/bandpass")  vdb("/highpass")
end
rusage time
.endc
.end
